US06548448B2
To a solution of 1.56 g (0.00739 mol) of 2-bromo-1-methyl-1-phenylcyclopropane in 5 ml of dimethylsulfoxide was added 1.429 g (0.0127 mol) of potassium tert-butoxide. After the reaction was heated to 72° C. for 4 hours, diethyl ether and water were added. The resulting mixture was transferred to a separatory funnel and the phases were separated. The organic layer was dried over MgSO4 and filtered. The solvent was removed from the filtrate in vacuo to yield 0.88 g of 70% pure 3-methyl-3-phenylcyclopropene as an oil. The major byproduct (roughly 20%) was 1-methyl-1-phenylcyclopropane.

reactant | 2-bromo-1-methyl-1-phenylcyclopropane | 0.00739 mol, 1.56 g | BrC1C(C1)(C1=CC=CC=C1)C | C10H11Br
reactant | potassium tert-butoxide | 0.0127 mol, 1.429 g | CC(C)([O-])C.[K+]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
product | 3-methyl-3-phenylcyclopropene | 0.88 g, 70% | CC1(C=C1)C1=CC=CC=C1 | C10H10
